* adc_top_alt -- full ADC integration variant B: identical cap-DAC, sar_logic
* and glue to adc_top, with the StrongARM comparator replaced by Luc's
* two-stage comparator (comparator_alt: dynamic preamp + strongarm_2 latch).
* CKL (latch clock) is derived on-chip from CK via a loaded 2-inverter delay
* chain targeting ~0.8 ns (COMP-ALT-10 survival window 0.6-1.0 ns).
** sch_path: /foss/designs/adc_top/schematic/adc_top.sch
.subckt adc_top_alt VDD VSS VIN CLK RST_N BIT_7 BIT_6 BIT_5 BIT_4 BIT_3 BIT_2 BIT_1 BIT_0 EOC
*.iopin VDD
*.iopin VSS
*.ipin VIN
*.ipin CLK
*.ipin RST_N
*.opin BIT_7
*.opin BIT_6
*.opin BIT_5
*.opin BIT_4
*.opin BIT_3
*.opin BIT_2
*.opin BIT_1
*.opin BIT_0
*.opin EOC
x_dac VSS VDD SAMPLE BIT_0 BIT_1 BIT_2 BIT_3 BIT_4 BIT_5 BIT_6 BIT_7 DAC_TOP cap_array
* Luc's two-stage comparator (dynamic preamp + StrongARM latch).
* Port order: CKL VIN2 VDD VOUT2 VIN1 VOUT1 CK VSS
* NOTE inputs are swapped vs the StrongARM variant (VIN1=DAC_TOP, VIN2=VIN):
* comparator_2stage resolves VOUT1 high for VIN1>VIN2 (measured,
* tb_ckl_delay.spice) which is the opposite decision polarity of the bare
* strongarm at the same pins, so the swap restores the SAR loop convention.
x_cmp CKL VIN VDD VOUT2 DAC_TOP VOUT1 CK VSS comparator_2stage
* CKL: latch clock, CK delayed ~0.8 ns (COMP-ALT window 0.6-1.0 ns)
* by a 2-inverter chain with MiM-sized load caps
x_dly1 VDD CK CKD1 VSS inv
x_dly2 VDD CKD1 CKL VSS inv
Cdly1 CKD1 VSS 20f
Cdly2 CKL VSS 20f
x_sar VDD VSS BIT_7 BIT_6 BIT_5 BIT_4 BIT_3 BIT_2 BIT_1 BIT_0 EOC RST_N CMP_OUT CLK sar_logic
x_inv_ck VDD CLK CK VSS inv
x_inv_smp VDD RST_N SAMPLE VSS inv
x_ib1 VDD VOUT1 V1B VSS inv
x_ib2 VDD VOUT2 V2B VSS inv
x_nq VDD V2B QB CMP_OUT VSS nor2
x_nqb VDD V1B CMP_OUT QB VSS nor2
.ends

* expanding   symbol:  dac/schematic/cap_array.sym # of pins=12
** sym_path: /foss/designs/dac/schematic/cap_array.sym
** sch_path: /foss/designs/dac/schematic/cap_array.sch
.subckt cap_array VIN VDD SAMPLE B0 B1 B2 B3 B4 B5 B6 B7 DAC_TOP
*.ipin VIN
*.ipin VDD
*.ipin SAMPLE
*.ipin B0
*.ipin B1
*.ipin B2
*.ipin B3
*.ipin B4
*.ipin B5
*.ipin B6
*.ipin B7
*.opin DAC_TOP
x_sw0 net1 B0NAND VDD 0 unit_switch pfet_wid=0.84u nfet_wid=0.42u pfet_len=0.28u nfet_len=0.28u pfet_m=1 nfet_m=1
XC0 net1 DAC_TOP cap_mim_2f0fF c_width=5e-6 c_length=5e-6
x_sw1 net2 B1NAND VDD 0 unit_switch pfet_wid=1.68u nfet_wid=0.84u pfet_len=0.28u nfet_len=0.28u pfet_m=1 nfet_m=1
XC1 net2 DAC_TOP cap_mim_2f0fF c_width=5e-6 c_length=5e-6 m=2
x_sw2 net3 B2NAND VDD 0 unit_switch pfet_wid=3.36u nfet_wid=1.68u pfet_len=0.28u nfet_len=0.28u pfet_m=1 nfet_m=1
XC2 net3 DAC_TOP cap_mim_2f0fF c_width=5e-6 c_length=5e-6 m=4
x_sw3 net4 B3NAND VDD 0 unit_switch pfet_wid=6.72u nfet_wid=3.36u pfet_len=0.28u nfet_len=0.28u pfet_m=1 nfet_m=1
XC3 net4 DAC_TOP cap_mim_2f0fF c_width=5e-6 c_length=5e-6 m=8
x_sw4 net5 B4NAND VDD 0 unit_switch pfet_wid=13.44u nfet_wid=6.72u pfet_len=0.28u nfet_len=0.28u pfet_m=1 nfet_m=1
XC4 net5 DAC_TOP cap_mim_2f0fF c_width=5e-6 c_length=5e-6 m=16
x_sw5 net6 B5NAND VDD 0 unit_switch pfet_wid=26.88u nfet_wid=13.44u pfet_len=0.28u nfet_len=0.28u pfet_m=1 nfet_m=1
XC5 net6 DAC_TOP cap_mim_2f0fF c_width=5e-6 c_length=5e-6 m=32
x_sw6 net7 B6NAND VDD 0 unit_switch pfet_wid=53.76u nfet_wid=26.88u pfet_len=0.28u nfet_len=0.28u pfet_m=1 nfet_m=1
XC6 net7 DAC_TOP cap_mim_2f0fF c_width=5e-6 c_length=5e-6 m=64
x_sw7 net8 B7NAND VDD 0 unit_switch pfet_wid=53.76u nfet_wid=53.76u pfet_len=0.28u nfet_len=0.28u pfet_m=2 nfet_m=1
XC7 net8 DAC_TOP cap_mim_2f0fF c_width=5e-6 c_length=5e-6 m=128
x_nand0 VDD B0 SAMPLE_N B0NAND 0 dac_nand2 pfet_wid=1.7u nfet_wid=1.7u pfet_len=0.3u nfet_len=0.3u
x_nand1 VDD B1 SAMPLE_N B1NAND 0 dac_nand2 pfet_wid=1.7u nfet_wid=1.7u pfet_len=0.3u nfet_len=0.3u
x_nand2 VDD B2 SAMPLE_N B2NAND 0 dac_nand2 pfet_wid=1.7u nfet_wid=1.7u pfet_len=0.3u nfet_len=0.3u
x_nand3 VDD B3 SAMPLE_N B3NAND 0 dac_nand2 pfet_wid=1.7u nfet_wid=1.7u pfet_len=0.3u nfet_len=0.3u
x_nand4 VDD B4 SAMPLE_N B4NAND 0 dac_nand2 pfet_wid=1.7u nfet_wid=1.7u pfet_len=0.3u nfet_len=0.3u
x_nand5 VDD B5 SAMPLE_N B5NAND 0 dac_nand2 pfet_wid=1.7u nfet_wid=1.7u pfet_len=0.3u nfet_len=0.3u
x_nand6 VDD B6 SAMPLE_N B6NAND 0 dac_nand2 pfet_wid=1.7u nfet_wid=1.7u pfet_len=0.3u nfet_len=0.3u
x_nand7 VDD B7 SAMPLE_N B7NAND 0 dac_nand2 pfet_wid=1.7u nfet_wid=1.7u pfet_len=0.3u nfet_len=0.3u
x_sampinv VDD SAMPLE SAMPLE_N 0 dac_inv1
x_tg VIN DAC_TOP SAMPLE SAMPLE_N VDD 0 tgate pfet_wid=8u nfet_wid=4u pfet_len=0.28u nfet_len=0.28u
.ends




* expanding   symbol:  sar_logic/sar_designs/sar_logic.sym # of pins=14
** sym_path: /foss/designs/sar_logic/sar_designs/sar_logic.sym
** sch_path: /foss/designs/sar_logic/sar_designs/sar_logic.sch
.subckt sar_logic VDD VSS BIT_7 BIT_6 BIT_5 BIT_4 BIT_3 BIT_2 BIT_1 BIT_0 EOC RST_N CMP_OUT CLK
*.iopin VDD
*.iopin VSS
*.opin BIT_7
*.opin BIT_6
*.opin BIT_5
*.opin BIT_4
*.opin BIT_3
*.opin BIT_2
*.opin BIT_1
*.opin BIT_0
*.opin EOC
*.ipin RST_N
*.ipin CMP_OUT
*.ipin CLK
XS7 VDD CLK VSS net1 RST_N VSS dff_set_n
XS6 VDD CLK net1 net8 RST_N VSS dff_rst_n
XS5 VDD CLK net8 net2 RST_N VSS dff_rst_n
XS4 VDD CLK net2 net3 RST_N VSS dff_rst_n
XS3 VDD CLK net3 net4 RST_N VSS dff_rst_n
XS2 VDD CLK net4 net7 RST_N VSS dff_rst_n
XS1 VDD CLK net7 net5 RST_N VSS dff_rst_n
XS0 VDD CLK net5 net6 RST_N VSS dff_rst_n
XSEOC VDD CLK net6 EOC RST_N VSS dff_rst_n
XC7 VDD net8 CMP_OUT net9 RST_N VSS dff_rst_n
XC6 VDD net2 CMP_OUT net10 RST_N VSS dff_rst_n
XC5 VDD net3 CMP_OUT net11 RST_N VSS dff_rst_n
XC4 VDD net4 CMP_OUT net12 RST_N VSS dff_rst_n
XC3 VDD net7 CMP_OUT net13 RST_N VSS dff_rst_n
XC2 VDD net5 CMP_OUT net14 RST_N VSS dff_rst_n
XC1 VDD net6 CMP_OUT net15 RST_N VSS dff_rst_n
XC0 VDD EOC CMP_OUT net16 RST_N VSS dff_rst_n
x1 VDD net9 net1 net17 VSS nor2
x2 VDD net17 BIT_7 VSS inv
x3 VDD net10 net8 net18 VSS nor2
x4 VDD net18 BIT_6 VSS inv
x5 VDD net11 net2 net19 VSS nor2
x6 VDD net19 BIT_5 VSS inv
x7 VDD net12 net3 net20 VSS nor2
x8 VDD net20 BIT_4 VSS inv
x9 VDD net13 net4 net21 VSS nor2
x10 VDD net21 BIT_3 VSS inv
x11 VDD net14 net7 net22 VSS nor2
x12 VDD net22 BIT_2 VSS inv
x13 VDD net15 net5 net23 VSS nor2
x14 VDD net23 BIT_1 VSS inv
x15 VDD net16 net6 net24 VSS nor2
x16 VDD net24 BIT_0 VSS inv
.ends


* expanding   symbol:  sar_logic/sar_designs/inv.sym # of pins=4
** sym_path: /foss/designs/sar_logic/sar_designs/inv.sym
** sch_path: /foss/designs/sar_logic/sar_designs/inv.sch
.subckt inv VDD vin vout VSS
*.ipin vin
*.opin vout
*.iopin VDD
*.iopin VSS
XM1 vout vin VDD VDD pfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 vout vin VSS VSS nfet_03v3 L=0.28u W=0.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends


* expanding   symbol:  sar_logic/sar_designs/nor2.sym # of pins=5
** sym_path: /foss/designs/sar_logic/sar_designs/nor2.sym
** sch_path: /foss/designs/sar_logic/sar_designs/nor2.sch
.subckt nor2 VDD A B Z VSS
*.iopin VSS
*.iopin VDD
*.ipin A
*.ipin B
*.opin Z
XM1 Z B net1 VDD pfet_03v3 L=0.28u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 net1 A VDD VDD pfet_03v3 L=0.28u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM3 Z A VSS VSS nfet_03v3 L=0.28u W=0.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM4 Z B VSS VSS nfet_03v3 L=0.28u W=0.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends


* expanding   symbol:  dac/schematic/unit_switch.sym # of pins=4
** sym_path: /foss/designs/dac/schematic/unit_switch.sym
** sch_path: /foss/designs/dac/schematic/unit_switch.sch
.subckt unit_switch VOUT bN_bar VDD GND  pfet_wid=0.84u nfet_wid=0.42u pfet_len=0.28u nfet_len=0.28u pfet_m=1 nfet_m=1
*.ipin bN_bar
*.iopin VOUT
*.iopin VDD
*.iopin GND
XM1 VOUT bN_bar VDD VDD pfet_03v3 L='pfet_len' W='pfet_wid' nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m='pfet_m'
XM2 VOUT bN_bar GND GND nfet_03v3 L='nfet_len' W='nfet_wid' nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m='nfet_m'
.ends


* expanding   symbol:  dac/schematic/dac_nand2.sym # of pins=5
** sym_path: /foss/designs/dac/schematic/dac_nand2.sym
** sch_path: /foss/designs/dac/schematic/dac_nand2.sch
.subckt dac_nand2 DVDD a b y DVSS  pfet_wid=1.7u nfet_wid=1.7u pfet_len=0.3u nfet_len=0.3u
*.ipin a
*.ipin b
*.opin y
*.iopin DVDD
*.iopin DVSS
XM1 y a DVDD DVDD pfet_03v3 L='pfet_len' W='pfet_wid' nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 y b DVDD DVDD pfet_03v3 L='pfet_len' W='pfet_wid' nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM3 y a mid DVSS nfet_03v3 L='nfet_len' W='nfet_wid' nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM4 mid b DVSS DVSS nfet_03v3 L='nfet_len' W='nfet_wid' nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends


* expanding   symbol:  dac/schematic/dac_inv1.sym # of pins=4
** sym_path: /foss/designs/dac/schematic/dac_inv1.sym
** sch_path: /foss/designs/dac/schematic/dac_inv1.sch
.subckt dac_inv1 DVDD vin vout DVSS
*.ipin vin
*.opin vout
*.iopin DVDD
*.iopin DVSS
XM1 vout vin DVDD DVDD pfet_03v3 L=0.3u W=1.7u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 vout vin DVSS DVSS nfet_03v3 L=0.3u W=0.85u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends


* expanding   symbol:  dac/schematic/tgate.sym # of pins=6
** sym_path: /foss/designs/dac/schematic/tgate.sym
** sch_path: /foss/designs/dac/schematic/tgate.sch
.subckt tgate A B SAMPLE SAMPLE_N DVDD DVSS  pfet_wid=1.7u nfet_wid=1.7u pfet_len=0.28u nfet_len=0.28u
*.iopin A
*.iopin B
*.ipin SAMPLE
*.ipin SAMPLE_N
*.iopin DVDD
*.iopin DVSS
XM1 A SAMPLE B DVSS nfet_03v3 L='nfet_len' W='nfet_wid' nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 B SAMPLE_N A DVDD pfet_03v3 L='pfet_len' W='pfet_wid' nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends


* expanding   symbol:  dff_set_n.sym # of pins=6
** sym_path: /foss/designs/sar_logic/sar_designs/dff_set_n.sym
** sch_path: /foss/designs/sar_logic/sar_designs/dff_set_n.sch
.subckt dff_set_n VDD CLK D Q RST_N VSS
*.ipin D
*.ipin CLK
*.ipin RST_N
*.opin Q
*.iopin VDD
*.iopin VSS
x1 CLK VSS net2 net3 VDD net7 tg
x2 net7 VSS D net3 VDD CLK tg
x3 CLK VSS net2 net6 VDD net7 tg
x4 net7 VSS net5 net6 VDD CLK tg
x7 VDD net1 net2 VSS inv
x8 VDD net4 Q VSS inv
x9 VDD net4 net5 VSS inv
x10 VDD CLK net7 VSS inv
x5 VDD net3 net8 net1 VSS nor2
x6 VDD net6 net8 net4 VSS nor2
x11 VDD RST_N net8 VSS inv
.ends


* expanding   symbol:  dff_rst_n.sym # of pins=6
** sym_path: /foss/designs/sar_logic/sar_designs/dff_rst_n.sym
** sch_path: /foss/designs/sar_logic/sar_designs/dff_rst_n.sch
.subckt dff_rst_n VDD CLK D Q RST_N VSS
*.ipin D
*.ipin CLK
*.ipin RST_N
*.opin Q
*.iopin VDD
*.iopin VSS
x1 CLK VSS net4 net1 VDD net7 tg
x2 net7 VSS D net1 VDD CLK tg
x3 CLK VSS net4 net2 VDD net7 tg
x4 net7 VSS net6 net2 VDD CLK tg
x5 VDD net3 net1 RST_N VSS nand2
x6 VDD net5 net2 RST_N VSS nand2
x7 VDD net3 net4 VSS inv
x8 VDD net5 Q VSS inv
x9 VDD net5 net6 VSS inv
x10 VDD CLK net7 VSS inv
.ends


* expanding   symbol:  tg.sym # of pins=6
** sym_path: /foss/designs/sar_logic/sar_designs/tg.sym
** sch_path: /foss/designs/sar_logic/sar_designs/tg.sch
.subckt tg CTRL VSS A B VDD CTRL_B
*.iopin VDD
*.iopin VSS
*.iopin A
*.iopin B
*.ipin CTRL_B
*.ipin CTRL
XM1 A CTRL_B B VDD pfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 A CTRL B VSS nfet_03v3 L=0.28u W=0.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends


* expanding   symbol:  nand2.sym # of pins=5
** sym_path: /foss/designs/sar_logic/sar_designs/nand2.sym
** sch_path: /foss/designs/sar_logic/sar_designs/nand2.sch
.subckt nand2 VDD Z A B VSS
*.ipin A
*.ipin B
*.iopin VSS
*.iopin VDD
*.opin Z
XM1 Z A VDD VDD pfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 Z B VDD VDD pfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM3 Z A net1 VSS nfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM4 net1 B VSS VSS nfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends

* ---- comparator_alt subckts (netlisted from xschem 2026-08-05) ----
.subckt comparator_2stage CKL VIN2 VDD VOUT2 VIN1 VOUT1 CK VSS
*.ipin CK
*.iopin VDD
*.iopin VSS
*.ipin VIN1
*.ipin VIN2
*.opin VOUT2
*.opin VOUT1
*.ipin CKL
x1 VDD DIP1 DIP2 VIN2 VIN1 CK VSS preamp_dyn
x2 VDD CKL VOUT2 VOUT1 DIP2 DIP1 VSS strongarm_2
.ends
.subckt preamp_dyn VDD DIP2 DIP1 VIN2 VIN1 CK VSS
*.ipin VIN1
*.ipin VIN2
*.iopin VDD
*.iopin VSS
*.opin DIP1
*.opin DIP2
*.ipin CK
XM1P DIP1 VIN1 TAIL VSS nfet_03v3 L=1u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=16
XMT1 TAIL CK VSS VSS nfet_03v3 L=1u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2P DIP2 VIN2 TAIL VSS nfet_03v3 L=1u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=16
XMP1 DIP1 CK VDD VDD pfet_03v3 L=0.3u W=3u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XMP2 DIP2 CK VDD VDD pfet_03v3 L=0.3u W=3u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends
.subckt strongarm_2 VDD CK VOUT2 VOUT1 VIN1 VIN2 VSS
*.opin VOUT1
*.opin VOUT2
*.ipin VIN1
*.ipin VIN2
*.ipin CK
*.iopin VDD
*.iopin VSS
XM1 VOUT2 VOUT1 net1 VSS nfet_03v3 L=0.28u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 VOUT1 VOUT2 VDD VDD pfet_03v3 L=0.28u W=0.42u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM3 VOUT1 CK VDD VDD pfet_03v3 L=0.28u W=5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM4 net3 CK VDD VDD pfet_03v3 L=0.28u W=5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM5 net1 CK VDD VDD pfet_03v3 L=0.28u W=5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM6 VOUT2 CK VDD VDD pfet_03v3 L=0.28u W=5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM7 VOUT2 VOUT1 VDD VDD pfet_03v3 L=0.28u W=0.42u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM8 net1 VIN2 net2 VSS nfet_03v3 L=1u W=8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM9 VOUT1 VOUT2 net3 VSS nfet_03v3 L=0.28u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM10 net3 VIN1 net2 VSS nfet_03v3 L=1u W=8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM11 net2 CK VSS VSS nfet_03v3 L=0.28u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends
